US07745438B2
(2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-cyclohexyloxymethylmorpholine-4-carboxylic acid tert-butyl ester
Add 20% palladium hydroxide on carbon (0.772 g) to a solution of (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-cyclohexyloxymethyl-morpholine-4-carboxylic acid tert-butyl ester (0.772 g, 1.023 mmol) in ethanol (10.2 mL). Stir vigorously under 1 atmosphere of hydrogen gas for 60 hours. Filter through a filtering agent, wash with ethanol and concentrate to give the desired compound (0.481 g, 97.1%).

reactant | (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-cyclohexyloxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 1.023 mmol, 0.772 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)COC1CCCCC1 | C46H56F2N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10.2 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.772 g | [OH-].[OH-].[Pd+2]
product | (2R,5R)-5-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-cyclohexyloxymethylmorpholine-4-carboxylic acid tert-butyl ester | 0.481 g, 97.1% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)COC1CCCCC1 | C25H38F2N2O5
